US08685980B2
Following General Procedure G, 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 0.230 mmol) and cyclohexyl acetyl chloride (39 mL, 0.690 mmol) gave 2-{5-[4-(2-cyclohexyl acetyl)-piperazin-1-yl]-pyridin-2-ylamino}-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (61 mg, 47%). MS (ESI) m/z 559.4 (M+H)+

reactant | 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.230 mmol, 100 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N1C1CCCC1)C | C23H30N8O
reactant | cyclohexyl acetyl chloride | 0.690 mmol, 39 mL | C1(CCCCC1)CC(=O)Cl | C8H13ClO
product | 2-{5-[4-(2-cyclohexyl acetyl)-piperazin-1-yl]-pyridin-2-ylamino}-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 61 mg, 47% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)C(CC2CCCCC2)=O)N1C1CCCC1)C | C31H42N8O2
